US08349824B2
To a suspension of 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid (710 mg, 2.81 mmol) and triethylamine (1.17 ml, 8.42 mmol) in tert-butanol (20 ml) is added diphenyl phosphorazidate (909 μl, 4.21 mmol) at 25° C. After the addition the white suspension is refluxed for 24 hours. The crude material is loaded on silica and purified by flash chromatography on a 20 g silica column using heptane/ethyl acetate 10-100% and then ethyl acetate/methanol 10% as eluent affording 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine (160 mg, 25.4%) as a white solid. mp.: 213-5° C. MS: m/z=225.2 (M+H+).

reactant | 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 2.81 mmol, 710 mg | CC=1C=2N(C=CC1C(=O)O)N=C(N2)C2=CC=CC=C2 | C14H11N3O2
reactant | triethylamine | 8.42 mmol, 1.17 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorazidate | 4.21 mmol, 909 μl | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 160 mg, 25.4% | CC=1C=2N(C=CC1N)N=C(N2)C2=CC=CC=C2 | C13H12N4
